US06432997B1
A mixture of 5-amino-3-cyano 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole (1 g), methylhydroxylamine hydrochloride (0.26 g) and triethylamine (0.4 g) was stirred in methanol at ambient temperature for 2 hours, evaporated, washed (water) extracted with ethyl acetate to give 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime (0.35 g) as a white solid m.p. about 190° C. Compound 2 was prepared in a similar manner from fipronil.

reactant | 5-amino-3-cyano 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole | 1 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)C | C12H7Cl2F3N4OS
reactant | methylhydroxylamine hydrochloride | 0.26 g | Cl.CNO
reactant | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime | 0.35 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=NO)S(=O)C | C12H9Cl2F3N4O2S
